US06803378B2
N-(4-fluoro-benzyl)-acetamide (697 mg, 4.17 mmol) was suspended in toluene and treated with 668 mg of 60% NaH (mineral oil) followed by (3-bromopropyl)-benzene (1.27 mL, 8.34 mmol) and the resulting mixture stirred overnight. The mixture was filtered and the solvent removed. The crude product was purified by preparative HPLC (C18, MeOH/H2O-0.1% TFA) to yield 221 mg (19% yield) N-(4-Fluoro-benzyl)-N-(3-phenyl-propyl)-acetamide. HRMS (M+H) calcd for C18H21FNO: 286.1607; found: 286.1603. 1H NMR and 13C NMR show a mixture of rotamers at room temperature. 1H NMR (500 MHz, CDCl3) δ: 1.89 (m), 2.11 (s), 2.16 (s), 2.60 (t, J=7), 3.19 (dd, J=8, 8), 3.41 (dd, J=8, 8), 4.46 (s), 4.54 (s), 6.96-7.32 (overlapping m). 13C NMR (125 MHz, CDCl3) δ: 20.67, 21.21, 28.71, 29.53, 32.77, 33.14, 46.21, 47.25, 48.04, 51.60, 115.48, 115.65, 115.95, 116.12, 116.22, 126.04, 126.44, 128.01, 128.07, 128.28, 128.46, 128.68, 129.94, 130.01, 131.57, 131.59, 132.61, 132.64, 140.32, 141.19, 158.96, 159.28, 161.32, 161.37, 163.28, 163.34, 172.14, 172.46.

reactant | N-(4-fluoro-benzyl)-acetamide | 4.17 mmol, 697 mg | FC1=CC=C(CNC(C)=O)C=C1 | C9H10FNO
reactant | NaH | 668 mg | [H-].[Na+]
reactant | (3-bromopropyl)-benzene | 8.34 mmol, 1.27 mL | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(4-Fluoro-benzyl)-N-(3-phenyl-propyl)-acetamide | 221 mg, 19% yield | FC1=CC=C(CN(C(C)=O)CCCC2=CC=CC=C2)C=C1 | C18H20FNO
